US05783522
3-Chloro-2-(4-chloro-2-fluoro-5-propargyloxyphenyl)-5-trifluoromethylpyridine (Table 4, Example 512)
In a preparation similar to that described above for 3-chloro-2-(4-chloro-3-propargyloxyphenyl)-5-trifluoromethylpyridine, reaction of 1.4 g (4.5 mmol) of 3-chloro-2-(4-chloro-2-fluoro-5-hydroxyphenyl)-5-trifluoromethylpyridine and 0.6 g (5 mmol) of propargyl bromide resulted in 1.1 g of colorless crystals. Yield: 67%; melting point: 97°-98° C.

reactant | 3-chloro-2-(4-chloro-3-propargyloxyphenyl)-5-trifluoromethylpyridine | ClC=1C(=NC=C(C1)C(F)(F)F)C1=CC(=C(C=C1)Cl)OCC#C | C15H8Cl2F3NO
reactant | 3-chloro-2-(4-chloro-2-fluoro-5-hydroxyphenyl)-5-trifluoromethylpyridine | 4.5 mmol, 1.4 g | ClC=1C(=NC=C(C1)C(F)(F)F)C1=C(C=C(C(=C1)O)Cl)F | C12H5Cl2F4NO
reactant | propargyl bromide | 5 mmol, 0.6 g | C(C#C)Br | C3H3Br
product | 3-Chloro-2-(4-chloro-2-fluoro-5-propargyloxyphenyl)-5-trifluoromethylpyridine | 1.1 g, Yield: 67% | ClC=1C(=NC=C(C1)C(F)(F)F)C1=C(C=C(C(=C1)OCC#C)Cl)F | C15H7Cl2F4NO
